US06437146B1
To a mixture of (S)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoic acid (120 mg, 0.276 mmol) and 2-(2-aminoethyl)pyridine (0.040 ml, 0.331 mmol) in DMF (5 ml) was added 1-hydroxybenzotriazole (56 mg, 0.414 mmol) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (106 mg, 0.552 mmol). After stirring the resulting mixture at room temperature for 2 hours, the reaction mixture was diluted with EtOAc (30 ml), washed with water, saturated sodium hydrogencarbonate solution, water and brine successively, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (methylene chloride:MeOH, 20:1 elution) to give (S)-N-[2-(2-pyridyl)ethyl]-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzamide (138.8 mg, 93%).

reactant | (S)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoic acid | 0.276 mmol, 120 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCCC1)CC=1C=C(C(=O)O)C=CC1 | C29H25NO3
reactant | 2-(2-aminoethyl)pyridine | 0.331 mmol, 0.040 ml | NCCC1=NC=CC=C1 | C7H10N2
reactant | 1-hydroxybenzotriazole | 0.414 mmol, 56 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.552 mmol, 106 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | (S)-N-[2-(2-pyridyl)ethyl]-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzamide | 138.8 mg, 93% | N1=C(C=CC=C1)CCNC(C1=CC(=CC=C1)C[C@H]1C(=CCCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C36H33N3O2
